2191-04-01 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2191-3-31**] 07:00 PM
 NASAL SWAB - At [**2191-3-31**] 09:18 PM
 EKG - At [**2191-3-31**] 11:13 PM
 BLOOD CULTURED - At [**2191-4-1**] 04:30 AM
 FEVER - 102.0
F - [**2191-4-1**] 12:00 AM
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-1**] 01:39 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-1**] 01:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (100.9
   HR: 118 (104 - 127) bpm
   BP: 101/49(60) {95/49(60) - 125/88(97)} mmHg
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,852 mL
                                                                    362 mL
   PO:
             TF:
   IVF:
                                                                    102 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    360 mL
   Urine:
                                                                    450 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,102 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 381 (381 - 381) mL
   RR (Set): 22
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.40/31/111/17/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   GEN: sedated, intubated
   HEENT: pinpoint pupils, NC/AT
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   CV: RRR w/ S3 and S4
   PULM: course ventilated sounds anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 1+ LE edema
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Labs / Radiology
   164 K/uL
   11.8 g/dL
   84 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.1 mEq/L
   25 mg/dL
   104 mEq/L
   130 mEq/L
   36.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
   WBC
   4.3
   4.7
   Hct
   35.8
   36.3
   Plt
   153
   164
   Cr
   1.1
   1.3
   TropT
   0.03
   TCO2
   20
   20
   Glucose
   88
   84
   Other labs: PT / PTT / INR:18.5/35.2/1.7, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:87/102, Alk Phos / T Bili:130/1.3,
   Lactic Acid:1.4 mmol/L, LDH:312 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   47yo F p/w AIDS, HIV, dilated cardiomyopathy, and antiphsopholid
   syndrome who p/w R shoulder pain and tacypnea.
   .
   # RESPIRATORY [**Name (NI) **] pt devleoped tachypnea [**2-7**] PE causing
   respiratory alkalosis. PE causing shunting, and pt's probable PNA
   creating some dead space. Overnight AC Vt 350, RR 22, PEEP 5, fi02 50%.
   Pt overbreathing vent currently, likely [**2-7**] agitation.  Pt now
   tolerating pressure support [**10-10**].
   - will recheck ABG
   - wean fentanyl/versed gtt for sedation
   .
   # PNA- CT showed b/l lower lobe infiltrates. Pt's CD4 is unknown but pt
   has been non-complaint w/ HAART therapy in past. Pt at risk for
   opportunistic infections. Pt recently hospitalized and current CT looks
   c/w bacterial pna. Currently afebrile, and normal WBC, but will tx for
   HAP. Will keep broad ddx though: pcp (has been taking atovaquone
   sporadically), [**Month/Day (1) 1156**] pna, aspergillis, viral pna.
   - sputum cx, [**Month/Day (1) 1156**] cx
   - f/u blood cx
   - glucan
   - galactomannan
   - vanc/zosyn day#2
   - bronch today
   ..
   # [**Name (NI) 8547**] Pt's filling defect on CT was at center of infiltrate. Pt has new
   blood suctioned.
   - will restart heparin after bronch
   - LENI negative
 will place on boots
   .
   # [**Name (NI) 8548**] unclear if before or after heparin use. Pulmonary
   hemorrhage syndrome in setting of antiphospolipid syndrome posibility.
   Otherwise ddx: bronchitis, (known) bronchietesis, Tb, and heparin use.
   - holding heparin as above
   - will get further data from bronch
   .
   # AMS- HIV w/ CT head negative for new lesion, may be [**2-7**] infection
   (b/l lower lobes). Electrolytes normal. HIV encephalopathy
   possibility.
   - will further assess when on less sedation
   .
   # HIV- not compliant w/ HAART in past. No recent CD4, but in [**11-13**] CD4
   184
   - will check new CD4
   - no other HAART therapy currently
   .
   # [**Name (NI) 8549**] pt has dilated cardiomyopathy and may be in setting of
   hypervolemia from low EF and fluids given in ED vs. SIADH
   - will hold off on diuresis currently as pt was hypertensive
   - check urine Osm/serum Osm
   .
   # CHF = pt has dilated cardiomyopathy ?[**2-7**] cocaine. Pt has EF 25%,
   appears only mildy hypervolemic on exam.
   - hold ACE-I, BB [**2-7**] hypotension, infection.
   - hold off on diuresis as above
   .
   # NON-GAP ACIDOSIS - AG 7, but bicarb 15. Too acute for compensation
   for resp alkalosis. DDx: diarrhea vs. RTA.
   - will check urine ph, urine bicarb
   .
   # ANTIPHOSPHOLIPID SYND: goal INR [**2-8**]. Will redose after hemoptysis
   resolved.
   - restart coumadin after bronch w/ heparin until coumadin therapeutic
   .
   FEN: hold feeds for now
   ACCESS: PIV, consider a-line
   PPx: SQH, ppi, bowel
   Code: full
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-01 10:15:00 Physician Attending Progress Note
Chief Complaint: Acute resppiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2191-3-31**] 07:00 PM
 NASAL SWAB - At [**2191-3-31**] 09:18 PM
 EKG - At [**2191-3-31**] 11:13 PM
 BLOOD CULTURED - At [**2191-4-1**] 04:30 AM
 FEVER - 102.0
F - [**2191-4-1**] 12:00 AM
   LENIS negative
   History obtained from Patient
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-1**] 01:39 AM
   Vancomycin - [**2191-4-1**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-1**] 08:00 AM
   Other medications:
   fluconazole
   metoprolol
   ASA
   Coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-4-1**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.8
C (101.8
   HR: 120 (104 - 127) bpm
   BP: 109/51(64) {95/49(60) - 125/88(97)} mmHg
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,852 mL
                                                                    608 mL
   PO:
             TF:
   IVF:
                                                                    102 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    540 mL
   Urine:
                                                                    450 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,102 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 392 (381 - 392) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/31/111/17/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases, end
   inspiratory squeak at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, no cords
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   164 K/uL
   84 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.1 mEq/L
   25 mg/dL
   104 mEq/L
   130 mEq/L
   36.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
   WBC
   4.3
   4.7
   Hct
   35.8
   36.3
   Plt
   153
   164
   Cr
   1.1
   1.3
   TropT
   0.03
   TCO2
   20
   20
   Glucose
   88
   84
   Other labs: PT / PTT / INR:18.5/35.2/1.7, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:87/102, Alk Phos / T Bili:130/1.3,
   Lactic Acid:1.4 mmol/L, LDH:312 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR:  ETT in good position, RLL opacifications, fluid in
   fissure
   Head CT: no acute process
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) in setting of pneumonia.
   Currently on vanco/zosyn.  Unable to get sputum for GS, C&S, PCP,
   [**Name Initial (NameIs) 1156**].  Given her smoking hsitory and age over 40 will also evaluate
   airways for endobronchial lesions.
 PULMONARY EMBOLISM:  After bronchoscopy willl consider starting IV
   heparin without a bolus.  LENIs negative.
 HYPOTENSION:  Likely related to relative volume depletion albeit also
   concerned for early sepsis.  Was volume resusitated
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) secondary
   to pneumonia, possible sepsis.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Likely in the setting of acute
   pulmonary infection.  Head CT unremarkable.  Unable to assess now on
   sedative, will wean and re-evaluate.
 ATRIAL FIBRILLATION:  Currently in sinus rhythm. On digoxin.
 ANTICARDIOLIPIN/CLOTTING HISTORY on coumadin albeit subtherapeutic on
   admission.
 HYPONATREMIA:  Porbable SIADH.  Send urine/serum osoms, lytes.
   Follow labs.  Free water restriction.
 HEMOPTYSIS:  Most likely secondary to acute pneumonia and exacerbated
   by anticoagulation.  She does have a PE in the area of the RLL
   infiltrate, also has anticardiolipin syndrome subtherapeutic on
   coumadin. After bronchoscopy later today will consider starting heparin
   without a bolus.
 ACUTE RENAL FAILURE: Likely component of ATN in setting of
   hypotension/hypovolemia.  Urine output improved, volume resusitated.
 DILATED CARDIOMYOPATHY:  Continues digoxin.  Consider adding ACE I if
   renal function improves.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2191-04-02 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 47yo F p/w AIDS, HIV, dilated cardiomyopathy, and
   antiphsopholid syndrome who p/w R shoulder pain and tacypnea.
   24 Hour Events:
 ULTRASOUND - At [**2191-4-1**] 09:30 AM
   LENI's negative
 FEVER - 102.4
F - [**2191-4-1**] 04:00 PM
   BAL on [**4-1**]
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-1**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-2**] 04:08 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-4-1**] 09:00 AM
   Midazolam (Versed) - [**2191-4-1**] 02:45 PM
   Fentanyl - [**2191-4-1**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-1**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-2**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (98.9
   HR: 113 (64 - 126) bpm
   BP: 92/59(67) {84/48(60) - 124/84(89)} mmHg
   RR: 24 (11 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,167 mL
                                                                    224 mL
   PO:
             TF:
   IVF:
                                                                  1,067 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    380 mL
   Urine:
                                                                  1,560 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -393 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 547 (341 - 547) mL
   PS : 18 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/32/91.[**Numeric Identifier 96**]/19/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GEN: intubated, but responding to commands.
   HEENT: NC/AT EOMI
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   CV: RRR w/ S3 and S4
   PULM: course ventilated sounds anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 1+ LE edema
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Neuro: Symm strength U+LE
   Labs / Radiology
   184 K/uL
   11.5 g/dL
   89 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   18 mg/dL
   104 mEq/L
   129 mEq/L
   36.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
                             [**2191-4-1**]  11:28 AM
                             [**2191-4-2**]  12:43 AM
                             [**2191-4-2**]  05:20 AM
   WBC
   4.3
   4.7
   8.1
   Hct
   35.8
   36.3
   35.0
   36.9
   Plt
   153
   164
   184
   Cr
   1.1
   1.3
   1.1
   TropT
   0.03
   TCO2
   20
   20
   21
   Glucose
   88
   84
   89
   Other labs: PT / PTT / INR:18.5/150.0/1.7, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:87/102, Alk Phos / T Bili:130/1.3,
   Lactic Acid:1.4 mmol/L, LDH:312 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Fluid analysis / Other labs: BRONCHIAL LAVAGE;CELL COUNT NOT PERFORMED
   WBC: 0
   RBC: 0
   Polys: 51
   Lymphs: 6
   Monos: 0
   Macro: 32
   Other: 11
   Comments: OTHER BODY FLUID Other: Lining Cells
   Microbiology: BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2191-4-1**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   47yo F p/w AIDS, HIV, dilated cardiomyopathy, and antiphsopholid
   syndrome who p/w R shoulder pain and tacypnea.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Suspect that resp failure due to CAP/aspiration pna as PE segmental and
   unlikely to cause this degree of resp distress.
   - PSV trial, check ABG and if improved, consider extubation
   - If  acidosis on ABG will not extubate and will plan to place a line
   - For pneumonia continue Vanc and Zosyn, withdraw Vanc if negative
   blood cx x48h
   - F/u micro, currently GNR on BAL
   - F/u galactomannan
   - Low suspicion for PCP as LDH chronically elevated and CXR does not
   suggest PCP
 [**Name Initial (PRE) **] (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Likely due to pna.
   - Treatment as above
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Likely [**2-7**] delirium in the setting of infection, also altered sensorium
   secondary to cocaine use. Now improving off sedation.
   - Minimize sedation.
   # HIV- not adherent to HAART in past. No recent CD4, but in [**11-13**] CD4
   184
   - will check new CD4
   - no other HAART therapy currently
   # [**Name (NI) 8549**] pt has dilated cardiomyopathy and may be in setting of
   hypervolemia from low EF and fluids given in ED vs. SIADH [**2-7**] pna
   - will hold off on diuresis currently as pt was hypertensive
   - check urine Osm/serum Osm
   # CHF = pt has dilated cardiomyopathy ?[**2-7**] cocaine. Pt has EF 25%,
   appears only mildy hypervolemic on exam.
   - hold ACE-I, BB [**2-7**] hypotension, infection.
   - hold off on diuresis as above
   - hold digoxin as frequent ectopy and ventricular bigeminy on tele
   # NON-GAP ACIDOSIS - AG 7, but bicarb 15. Too acute for compensation
   for resp alkalosis. DDx: diarrhea vs. RTA.
   - recheck ABG
   # ANTIPHOSPHOLIPID SYND: goal INR [**2-8**]. Will redose after hemoptysis
   resolved.
   - restarted coumadin, heparin gtt until therapeutic
   FEN: hold feeds for now pending respiratory status
   ACCESS: PIV, consider a-line if ABG worse
   PPx: heparin gtt, ppi, bowel regimen
   Code: full, attempt to identify HCP as pt
s MS [**First Name (Titles) 1342**]
[**Last Name (Titles) **]spo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Ms [**Known lastname 4135**], and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had continued bloody secretion output but currently has
   tolerated CPAP/ PSV trial for nearly 2 hrs ( [**5-10**] cms). She responds to
   simple commands and has improved strength in lower extermities too. Her
   resting tachycardia unchanged at 120 and is likely reflective of
   increased adrenergic tone.
   Exam notable for young BF Tmof 99.7 BP 110/79  HR of 115-120  RR  of 26
   with sats of 100% on 40% fio2 . she has bronchial breath sounds at
   right base.
   Labs notable for WBC of 8.1 K, HCT of 36.9, K+ 4.3, Cr of 1.1, lactate
   of < 2 and ABG of 7.42/32/92 CXR with RLL infiltrate and mild
   interstitial edema. she has massive cardiomegaly.
   Agree with plan to continue prolonged PSV/CPAP trial today and then
   assess ability to extubate if no evidence for worsening respiratory
   fatigue. She will need help with secretion clearance after extubation
   and possibly biPAP. I doubt PE has contributed to respiratory decline
   as INR was close to 2 on admission. hemoptysis likely on account of CAP
   ( while on anticoagulation)
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2191-4-2**] 01:36 PM ------

2191-04-03 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 47yo F p/w AIDS, HIV, dilated cardiomyopathy, and
   antiphsopholid syndrome who p/w R shoulder pain and tacypnea
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-4-2**] 04:04 PM
   - extubated, was tachypneic afterwards.
   - repeat Na 130
   - INR 1.5 in setting of bloody secretions
   - RUQ pain, likely due to PE/pna but checked LFTs (transaminases in
   50s)
   - GNR in sputum, no GP so can stop vanco after 48 hrs (today)
   - coumadin restarted
   - given low dose carvedilol for tachycardia
   - hypotensive to 66/51 this AM, responded well to 500cc bolus
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-2**] 09:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-4-2**] 04:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-3**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 105 (90 - 123) bpm
   BP: 104/69(76) {85/48(57) - 125/84(92)} mmHg
   RR: 33 (16 - 38) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,053 mL
                                                                    151 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    993 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    560 mL
   Urine:
                                                                  1,420 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -367 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 332 (320 - 332) mL
   PS : 5 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 100
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: 7.40/34/104/21/-2
   Ve: 13.1 L/min
   PaO2 / FiO2: 260
   Physical Examination
   GEN: intubated, but responding to commands.
   HEENT: NC/AT EOMI
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   CV: RRR w/ S3 and S4
   PULM: course ventilated sounds anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 1+ LE edema
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Neuro: Symm strength U+LE
   Labs / Radiology
   173 K/uL
   11.1 g/dL
   90 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   15 mg/dL
   101 mEq/L
   129 mEq/L
   35.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
                             [**2191-4-1**]  11:28 AM
                             [**2191-4-2**]  12:43 AM
                             [**2191-4-2**]  05:20 AM
                             [**2191-4-2**]  12:04 PM
                             [**2191-4-3**]  05:01 AM
   WBC
   4.3
   4.7
   8.1
   6.0
   Hct
   35.8
   36.3
   35.0
   36.9
   35.4
   Plt
   153
   164
   184
   173
   Cr
   1.1
   1.3
   1.1
   0.9
   TropT
   0.03
   TCO2
   20
   20
   21
   22
   Glucose
   88
   84
   89
   90
   Other labs: PT / PTT / INR:14.9/83.8/1.3, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:43/42, Alk Phos / T Bili:84/1.1, Lactic
   Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:190 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Microbiology: BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2191-4-1**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   47yo F p/w AIDS, HIV, dilated cardiomyopathy, and antiphsopholid
   syndrome who p/w R shoulder pain and tacypnea.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Suspect that resp failure
   due to CAP/aspiration pna as PE segmental and unlikely to cause this
   degree of resp distress. Pt now extubated [**4-2**]. Tolerating shovel mask
   this morning. Still lethargic metnal status, but not aspirating. Will
   optimize resp status:
   - atrovent nebs
   - mucinex 600mg [**Hospital1 **]
   - good pain control [**2-7**] pleuritic pain
 dilaudid q6h
 discussed w/ pt
   will not get more, (may try morphine prn if still in pain)
   - if CXR tomorrow same or worse will tap effusion tomorrow
   # Multilobar PNA- b/l lower lobes on chest CT most likely bacterial
   PNA, and as recent hospital admission tx for HAP. Furthermore, now  BAL
   shoiwng G(-)R.  But since HIV pt, broad differential - appearance not
   c/w PCP (and LDH chronically elevated), and checked for fungal pna.
   Fevers [**2-7**] pna.
   - continue [**Doctor Last Name 251**]/zosyn day #4 / 14
   - f/u cx
   - f/u glucan/galactomannan
 ALTERED MENTAL STATUS (NOT DELIRIUM)- Likely [**2-7**] delirium in the
   setting of infection, also altered sensorium secondary to cocaine use.
   Now improving off sedation. Still lethargic this AM
   - if does not improve will further investigate (CT head neg on
   admisison)
   # HIV- not adherent to HAART in past. No recent CD4, but in [**11-13**] CD4
   184
   - checking new CD4
   - no other HAART therapy currently
   # [**Name (NI) 8549**] pt has dilated cardiomyopathy and may be in setting of
   hypervolemia from low EF and fluids given in ED vs. and now urine osm/
   serum osm c/w SIADH [**2-7**] pulm process. Likely a combination of both.
   - minimizing fluids
   # CHF = pt has dilated cardiomyopathy ?[**2-7**] cocaine. Pt has EF 25%,
   appears only mildy hypervolemic on exam.
   - will start ACE once once no longer hypotensive, likely hold off on BB
   w/ chronic cocaine abuse
   - hold off on diuresis as hypotensive today
   # NON-GAP ACIDOSIS - AG 7, but bicarb 15. Too acute for compensation
   for resp alkalosis. DDx: diarrhea vs. RTA, but no diarreha.  Nearly
   resolved.
   # ANTIPHOSPHOLIPID SYND: goal INR [**2-8**]. Will redose after hemoptysis
   resolved. Restarted coumadin, heparin gtt until therapeutic.
   - now holding coumadin for possible thoracentesis tomorrow
   FEN: clear today
   ACCESS: 2 PIV
   PPx: heparin gtt, ppi, bowel regimen
   Code: full, attempt to identify HCP as pt
s MS clears -?daughter
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # PE
 continuing heparin, will stop prior to [**Female First Name (un) **] tomorrow, restart
   afterwards
   ------ Protected Section Addendum Entered By:[**Name (NI) 8570**] [**Name8 (MD) **], MD
   on:[**2191-4-3**] 14:52 ------

2191-04-04 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BAL growin Enterobacter- interm to Zosyn, changed pt to [**Last Name (un) **] 500 q6
   (d/c'd vanco/zosyn)
   - BAL negative for PCP, [**Name10 (NameIs) **]
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-2**] 08:00 PM
   Vancomycin - [**2191-4-3**] 08:00 AM
   Meropenem - [**2191-4-4**] 05:39 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-4-3**] 09:57 AM
   Hydromorphone (Dilaudid) - [**2191-4-3**] 12:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.3
C (95.6
   HR: 105 (88 - 112) bpm
   BP: 116/53(70) {83/42(54) - 128/78(89)} mmHg
   RR: 30 (21 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,796 mL
                                                                    235 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,556 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    290 mL
   Urine:
                                                                  1,220 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   11.7 g/dL
   99 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   127 mEq/L
   39.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
                             [**2191-4-1**]  11:28 AM
                             [**2191-4-2**]  12:43 AM
                             [**2191-4-2**]  05:20 AM
                             [**2191-4-2**]  12:04 PM
                             [**2191-4-3**]  05:01 AM
                             [**2191-4-4**]  04:28 AM
   WBC
   4.3
   4.7
   8.1
   6.0
   5.4
   Hct
   35.8
   36.3
   35.0
   36.9
   35.4
   39.0
   Plt
   153
   164
   184
   173
   180
   Cr
   1.1
   1.3
   1.1
   0.9
   0.8
   TropT
   0.03
   TCO2
   20
   20
   21
   22
   Glucose
   88
   84
   89
   90
   99
   Other labs: PT / PTT / INR:13.5/51.1/1.2, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:43/42, Alk Phos / T Bili:84/1.1, Lactic
   Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:190 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   47yo F p/w AIDS, HIV, dilated cardiomyopathy, and antiphsopholid
   syndrome who p/w R shoulder pain and tacypnea.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Suspect that resp failure
   due to CAP/aspiration pna as PE segmental and unlikely to cause this
   degree of resp distress. Pt now extubated [**4-2**]. Tolerating shovel mask
   this morning. Still lethargic metnal status, but not aspirating. Will
   optimize resp status:
   - atrovent nebs
   - mucinex 600mg [**Hospital1 **]
   - good pain control [**2-7**] pleuritic pain
 dilaudid q6h
 discussed w/ pt
   will not get more, (may try morphine prn if still in pain)
   - if CXR tomorrow same or worse will tap effusion tomorrow
   # Multilobar PNA- b/l lower lobes on chest CT most likely bacterial
   PNA, and as recent hospital admission tx for HAP. Furthermore, now  BAL
   shoiwng G(-)R.  But since HIV pt, broad differential - appearance not
   c/w PCP (and LDH chronically elevated), and checked for fungal pna.
   Fevers [**2-7**] pna.
   - continue [**Doctor Last Name 251**]/zosyn day #4 / 14
   - f/u cx
   - f/u glucan/galactomannan
 ALTERED MENTAL STATUS (NOT DELIRIUM)- Likely [**2-7**] delirium in the
   setting of infection, also altered sensorium secondary to cocaine use.
   Now improving off sedation. Still lethargic this AM
   - if does not improve will further investigate (CT head neg on
   admisison)
   # HIV- not adherent to HAART in past. No recent CD4, but in [**11-13**] CD4
   184
   - checking new CD4
   - no other HAART therapy currently
   # [**Name (NI) 8549**] pt has dilated cardiomyopathy and may be in setting of
   hypervolemia from low EF and fluids given in ED vs. and now urine osm/
   serum osm c/w SIADH [**2-7**] pulm process. Likely a combination of both.
   - minimizing fluids
   # CHF = pt has dilated cardiomyopathy ?[**2-7**] cocaine. Pt has EF 25%,
   appears only mildy hypervolemic on exam.
   - will start ACE once once no longer hypotensive, likely hold off on BB
   w/ chronic cocaine abuse
   - hold off on diuresis as hypotensive today
   # NON-GAP ACIDOSIS - AG 7, but bicarb 15. Too acute for compensation
   for resp alkalosis. DDx: diarrhea vs. RTA, but no diarreha.  Nearly
   resolved.
   # ANTIPHOSPHOLIPID SYND: goal INR [**2-8**]. Will redose after hemoptysis
   resolved. Restarted coumadin, heparin gtt until therapeutic.
   - now holding coumadin for possible thoracentesis tomorrow
   FEN: clear today
   ACCESS: 2 PIV
   PPx: heparin gtt, ppi, bowel regimen
   Code: full, attempt to identify HCP as pt
s MS clears -?daughter
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-04 14:12:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced ventricular bigeminy today, without evidence of hemodynamic
   compromise.
   Remains extubated.
   Hoarse voice.
   Awake, appropriate, although somewhat slowed speech.
   Allergies:
   Zidovudine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-2**] 08:00 PM
   Vancomycin - [**2191-4-3**] 08:00 AM
   Meropenem - [**2191-4-4**] 05:39 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2191-4-4**] 01:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-4-4**] 02:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.5
   HR: 97 (88 - 114) bpm
   BP: 108/76(82) {90/42(54) - 128/78(97)} mmHg
   RR: 26 (21 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,796 mL
                                                                    400 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,556 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    490 mL
   Urine:
                                                                  1,220 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.7 g/dL
   180 K/uL
   99 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   127 mEq/L
   39.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2191-3-31**]  05:28 PM
                             [**2191-3-31**]  08:47 PM
                             [**2191-4-1**]  01:45 AM
                             [**2191-4-1**]  04:07 AM
                             [**2191-4-1**]  11:28 AM
                             [**2191-4-2**]  12:43 AM
                             [**2191-4-2**]  05:20 AM
                             [**2191-4-2**]  12:04 PM
                             [**2191-4-3**]  05:01 AM
                             [**2191-4-4**]  04:28 AM
   WBC
   4.3
   4.7
   8.1
   6.0
   5.4
   Hct
   35.8
   36.3
   35.0
   36.9
   35.4
   39.0
   Plt
   153
   164
   184
   173
   180
   Cr
   1.1
   1.3
   1.1
   0.9
   0.8
   TropT
   0.03
   TCO2
   20
   20
   21
   22
   Glucose
   88
   84
   89
   90
   99
   Other labs: PT / PTT / INR:13.5/51.1/1.2, CK / CKMB /
   Troponin-T:75/3/0.03, ALT / AST:43/42, Alk Phos / T Bili:84/1.1, Lactic
   Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:190 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Pulmonary embolism; acute; pneumonia, multilobar.
   PULMONARY EMBOLISM
 underlying anti-phospholipid syndrome.  Continue
   anticoagulation.
   PNEUMONIA -- Enterobacter by BAL.  Continue Meripenem.  Consider
   therapeutic thoracentesis on right (hold anticoagulation)
   HYPOXEMIA -- related to pneumona and pulmonary embolism.  Continue
   supplimental oxygen.
   ALTERED MENTAL STATUS -- attributed to pneumonia, chronic drug use.
   Improved.
   CARDIOMYOPATHY --- advanced, stable.
   HIV+ -- continue usual meds.  h/o poor compliance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-31**] 06:24 PM
   20 Gauge - [**2191-3-31**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:  H2 blockers
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 45 minutes